US04701459
N-Cyclohexyl-1-(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)-N-methyl-4-piperidinecarboxamide
A stirred mixture of 1-(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)-4-piperidinecarboxylic acid (3.12 g, 10 mmol) and N-cyclohexyl-N-methylamine (1.36 g, 12 mmol) were combined in dimethylformamide (200 mL) and cooled to -20° C. Triethylamine (2.91 mL, 21 mmol) and diphenylphosphoryl azide (2.59 mL, 12 mmol) were added, the mixture stirred at -20° C. for 3 hours, and allowed to warm to room temperature. After 18 hours, the mixture was diluted with CH2Cl2 (200 mL), scratched to initiate crystallization, and stirred for an additional 72 hours. The resultant precipitate was collected, washed with CH2Cl2, and dried to give 2.09 g of a pale yellow solid (51%). Crystallization from dimethylformamide (80 mL) gave 1.02 g of pale yellow crystals, m.p. 318°-321° C.

reactant | 1-(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)-4-piperidinecarboxylic acid | 10 mmol, 3.12 g | O=C1NC=2C(=NC=3C=CC(=CC3C2)N2CCC(CC2)C(=O)O)N1 | C16H16N4O3
reactant | N-cyclohexyl-N-methylamine | 12 mmol, 1.36 g | C1(CCCCC1)NC | C7H15N
reactant | Triethylamine | 21 mmol, 2.91 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 12 mmol, 2.59 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | N-Cyclohexyl-1-(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)-N-methyl-4-piperidinecarboxamide | 2.09 g, 51% | C1(CCCCC1)N(C(=O)C1CCN(CC1)C1=CC=2C=C3C(=NC2C=C1)NC(N3)=O)C | C23H29N5O2
